US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide was reacted with 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one to provide the title compound: Diast #1 (RT 12 min) 14.2, 19.5, 2.9, 26.0, 28.2, 28.9, 29.7, 36.5, 52.9, 55.5, 58.9, 60.9, 67.5, 68.9, 101.1, 104.5, 110.7, 131.2, 137.4, 172.4; MS m/z 490.3 (M+1). Diast#2 (RT 18 min)14.2, 19.6, 25.9, 26.0, 28.3, 28.9, 29.6, 36.5, 52.5, 55.5, 58.8, 60.4, 67.5, 68.9, 101.1, 104.5, 110.6, 131.2, 137.3, 172.2; MS m/z 490.3 (M+1). Chiral sep using a Kromasil TBB column, elute 95/5, heptane/IPA, flow rate 85 ml/min.

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O2
reactant | 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(CC2=C(C1)F)=O | C10H8F2O
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C26H37F2N5O2
